US04166869
d. 4-Formyl-pyrimidine-oxime
4-Methyl-pyrimidine (0.1 M) was added to 100 ml of ethanol containing 3.5 g (0.1 M) of HCl. While keeping the reaction mixture at 5° there was added over 60 minutes a solution of 9 g (0.12 M) of ethyl nitrite in 60 ml of ethyl alcohol, whereupon the whole was kept under stirring for 1 hour at room temperature. The thus formed 4-formyl-pyrimidine-oxime hydrochloride was separated by filtration, dissolved in water and the aqueous solution neutralized by adding Na2CO3. The title compound was finally obtained by filtration and drying. M.p. 154°-155°. Yield 71%.

reactant | 4-Methyl-pyrimidine | 0.1 M | CC1=NC=NC=C1 | C5H6N2
reactant | HCl | Cl | ClH
reactant | ethyl nitrite | 0.12 M, 9 g | N(=O)OCC | C2H5NO2
solvent | ethyl alcohol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 0.1 M, 100 ml, 3.5 g | C(C)O | C2H6O
product | 4-Formyl-pyrimidine-oxime | Yield 71% | C(C1=NC=NC=C1)=NO | C5H5N3O
